US07531532B2
4-(4-{3-[2-(4-Fluorophenyl)acetyl]ureido}phenoxy)-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine
To a solution of 4-(4-aminophenoxy)-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine (834 mg) in tetrahydrofuran (45 ml) was added a solution of 2-(4-fluorophenyl)acetyl isocyanate in ethyl acetate (0.25 M, 15 ml) at room temperature, followed by stirring for 3.5 hours. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=97:3). Fractions containing the target compound were concentrated to give a residue, which was then suspended in ethyl acetate (8 ml) and hexane (16 ml). The crystals were filtered off and dried under aeration to provide the titled compound (546 mg, 49%) as white crystals.

reactant | 4-(4-aminophenoxy)-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine | 834 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CCN(CC2)C)C=C1 | C22H30N6O2
reactant | 2-(4-fluorophenyl)acetyl isocyanate | FC1=CC=C(C=C1)CC(=O)N=C=O | C9H6FNO2
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 0.25 M, 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
solvent | hexane | 16 ml | CCCCCC | C6H14
product | 4-(4-{3-[2-(4-Fluorophenyl)acetyl]ureido}phenoxy)-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine | 546 mg, 49% | FC1=CC=C(C=C1)CC(=O)NC(NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CCN(CC2)C)C=C1)=O | C31H36FN7O4
